US05482936
A solution of N,N-bis(phenylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine (2 g, 5.49 mmole) in tetrahydrofuran (10 mL) was added to a suspension of sodium hydride (0.21 g, 6.58 mmole) in tetrahydrofuran (25 mL). After 30 minutes chloromethyl ethyl ether (0.61 mL, 6.58 mmole) was added and the reaction mixture was stirred for 2 hours. The reaction mixture was diluted with diethyl ether, washed with water, dried over magnesium sulfate, and then concentrated under vacuum to provide crude product as a brown oil. The oil was purified by column chromatography (silica gel eluting with 20-30% ethyl acetate in hexanes v/v) to provide 1.77 g of N,N-bis(phenylmethyl)-1-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine as a white/tan solid.

reactant | N,N-bis(phenylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.49 mmole, 2 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=CN2)CC2=CC=CC=C2 | C24H20N4
reactant | sodium hydride | 6.58 mmole, 0.21 g | [H-].[Na+]
reactant | chloromethyl ethyl ether | 6.58 mmole, 0.61 mL | C(C)OCCl | C3H7ClO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N-bis(phenylmethyl)-1-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.77 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=CN2COCC)CC2=CC=CC=C2 | C27H26N4O
